US08686005B2
To a suspension of 5-Amino-4-methyl-2-(1-methyl-piperidin-4-yl)-6-nitro-isoindole-1,3-dione (1.7 g, 5.34 mmol) and 10% Pd/C (250 mg) was added MeOH (100 mL) carefully and evacuated in vacuo. The flask was filled with hydrogen under balloon pressure and stirred for 1 h. The reaction mixture was filtered and evaporated in vacuo to afford the crude 5,6-diamino-4-methyl-2-(1-methyl-piperidin-4-yl)-isoindole-1,3-dione (1.5 g, quant.), which was used as such for further reaction.

reactant | 5-Amino-4-methyl-2-(1-methyl-piperidin-4-yl)-6-nitro-isoindole-1,3-dione | 5.34 mmol, 1.7 g | NC=1C(=C2C(N(C(C2=CC1[N+](=O)[O-])=O)C1CCN(CC1)C)=O)C | C15H18N4O4
catalyst | Pd/C | 250 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 5,6-diamino-4-methyl-2-(1-methyl-piperidin-4-yl)-isoindole-1,3-dione | 1.5 g | NC=1C(=C2C(N(C(C2=CC1N)=O)C1CCN(CC1)C)=O)C | C15H20N4O2
